US08022222B2
Using the method of Example 3, Step A, 2-chlorobenzenethiol (912 mg, 6.31 mmol), 60% sodium hydride in mineral oil (252 mg, 6.31 mmol), and 2-chloro-4-nitropyridine (1.00 g, 6.31 mmol) were reacted to afford 2-chloro-4-(2-chlorophenylthio)pyridine (1.53 g, 95% yield) as an oil. 1H NMR (CDCl3) δ 8.15 (d, 1H), 7.65 (d, 1H), 7.46 (t, 1H), 7.36 (t, 1H), 6.89 (s, 1H), 6.84 (d, 1H).

reactant | 2-chlorobenzenethiol | 6.31 mmol, 912 mg | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-nitropyridine | 6.31 mmol, 1.00 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
product | 2-chloro-4-(2-chlorophenylthio)pyridine | 1.53 g, 95% yield | ClC1=NC=CC(=C1)SC1=C(C=CC=C1)Cl | C11H7Cl2NS
